US08071592B2
7-Oxo-6,7-dihydro-1H-pyrimido[5,4-b][1,4]oxazine-2-carbaldehyde
To a suspension of 2-[(E)-2-phenylethenyl]-1H-pyrimido[5,4-b][1,4]oxazin-7(6H)-one (106 mg, 0.418 mmol) in 1,4-dioxane (12 mL) and water (3 mL) was added NaIO4 (357 mg, 1.67 mmol) and OsO4 (00.1 mL, 4% wt in water) and the reaction mixture was stirred at room temperature. After 2 h, and additional 3 mL of 1,4-dioxane and 180 mg of NaIO4 were added. After a total of 7.5 h, the reaction was capped and stored in a freezer for the weekend. After warming to room temperature, additional OsO4 (0.1 mL, 4% wt in water) was added and the reaction was stirred for an additional 4 h. The solvent was evaporated to give a white solid which was dissolved in DCM and water. The aqueous layer was extracted with 10% MeOH-DCM (6×). The combined organic extracts were dried over Na2SO4, filtered, and concentrated to give a light tan solid (92 mg) which was not purified further.

reactant | 2-[(E)-2-phenylethenyl]-1H-pyrimido[5,4-b][1,4]oxazin-7(6H)-one | 0.418 mmol, 106 mg | C1(=CC=CC=C1)/C=C/C1=NC=C2OCC(N=C2N1)=O | C14H11N3O2
reactant | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
reactant | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 3 mL | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | OsO4 | O=[Os](=O)(=O)=O
catalyst | OsO4 | 0.1 mL | O=[Os](=O)(=O)=O
product | 7-Oxo-6,7-dihydro-1H-pyrimido[5,4-b][1,4]oxazine-2-carbaldehyde | 92 mg | O=C1N=C2C(OC1)=CN=C(N2)C=O | C7H5N3O3
